US06838463B2
In 1.5 ml of tetrahydrofuran was suspended 0.05 g of sodium hydride (60% in oil), to which 0.2 g of 6-(2-butynyloxy)-4-(α-hydroxybenzyl)pyrimidine was added under ice cooling, followed by stirring for 15 minutes. Then, 0.2 ml of a tetrahydrofuran solution containing 0.18 g of ethyl iodide was slowly added dropwise, followed by further stirring at the same temperature for 2 hours. The reaction mixture was then poured into a saturated aqueous ammonium chloride solution and extracted three times with chloroform. The chloroform layers were combined, washed with water, dried over anhydrous magnesium sulfate, and then concentrated. The residue was subjected to silica gel column chromatography to give 0.07 g of 6-(2-butynyloxy)-4-(α-ethoxybenzyl)pyrimidine (the present compound (138)).

reactant | sodium hydride | 0.05 g | [H-].[Na+]
reactant | 6-(2-butynyloxy)-4-(α-hydroxybenzyl)pyrimidine | 0.2 g | C(C#CC)OC1=CC(=NC=N1)C(C1=CC=CC=C1)O | C15H14N2O2
reactant | ethyl iodide | 0.18 g | C(C)I | C2H5I
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | 1.5 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 0.2 ml | O1CCCC1 | C4H8O
product | 6-(2-butynyloxy)-4-(α-ethoxybenzyl)pyrimidine | 0.07 g | C(C#CC)OC1=CC(=NC=N1)C(C1=CC=CC=C1)OCC | C17H18N2O2
